US09255100B2
4-[8-(Isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzaldehyde
To a solution of 63 mg (152 μmol) 3-[4-(1,3-dioxolan-2-yl)phenyl]-N-isobutyl-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-8-amine which was prepared according to intermediate example 13b, in 2.8 mL acetone were added 190 μL 4N hydrochloric acid and the mixture was stirred at 23° C. for 2 hours. Saturated hydrogen carbonate solution was added and the mixture was extracted with dichloromethane. The organic phase was dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 41 mg (73%) of the title compound.

reactant | 3-[4-(1,3-dioxolan-2-yl)phenyl]-N-isobutyl-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-8-amine | 152 μmol, 63 mg | O1C(OCC1)C1=CC=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=NC=C2 | C24H25N5O2
reactant | hydrochloric acid | 4N, 190 μL | Cl | ClH
reactant | hydrogen carbonate | C(O)([O-])=O
solvent | acetone | 2.8 mL | CC(=O)C | C3H6O
product | 4-[8-(Isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzaldehyde | 41 mg, 73% | C(C(C)C)NC=1C=2N(N=C(C1)C1=CC=NC=C1)C(=CN2)C2=CC=C(C=O)C=C2 | C22H21N5O
